US09447084B2
1-([4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl]carbonyl)-3-(2,2,2-trifluoroethyl)imidazolidin-4-one
Into a 50-mL round-bottom flask, was placed a solution of 1-([4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl]carbonyl)imidazolidin-4-one (300 mg, 0.56 mmol, 1.00 equiv) in N,N-dimethylformamide (5 mL), sodium hydride (26 mg, 1.08 mmol, 2.00 equiv), 2,2,2-trifluoroethyl trifluoromethanesulfonate (260 mg, 1.12 mmol, 2.00 equiv). The resulting solution was stirred for 2 h at 20° C. The resulting solution was diluted with 50 mL of brine. The resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined and dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1/5). This resulted in 58.8 mg (17%) of 1-([4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl]carbonyl)-3-(2,2,2-trifluoroethyl)imidazolidin-4-one as a off-white solid. (ES, m/z): [M−H]− 620; 1H NMR (300 MHz, CDCl3) δ: 8.01-8.03 (m, 2H), 7.53 (s, 3H), 7.47 (s, 1H), 5.20 (s, 1H), 4.65 (s, 1H), 4.32 (s, 1H), 4.17 (s, 1H), 4.02-4.11 (m, 2H), 3.73-3.84 (m, 2H)

reactant | 1-([4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl]carbonyl)imidazolidin-4-one | 0.56 mmol, 300 mg, 1.00 equiv | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CNC(C1)=O)C(F)(F)F)C(F)(F)F | C21H13Cl2F6N3O3
reactant | sodium hydride | 1.08 mmol, 26 mg, 2.00 equiv | [H-].[Na+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 1.12 mmol, 260 mg, 2.00 equiv | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | brine | 50 mL | [Cl-].[Na+].O
product | 1-([4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl]carbonyl)-3-(2,2,2-trifluoroethyl)imidazolidin-4-one | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CN(C(C1)=O)CC(F)(F)F)C(F)(F)F)C(F)(F)F | C23H14Cl2F9N3O3
